US08207147B2
4-(5-Pyridin-4-yl-4H-[1,2,4]triazol-3-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester (Preparation 1, 255 mg, 0.952 mmol) and triethylamine (138 μl, 0.982 mmol) in toluene was cooled to 0° C. and isobutylchloroformate (127 μl, 0.982 mmol) added. After stirring at rt for 45 min 4-pyridinecarboximidic acid hydrazide (100 mg, 0.82 mmol) and 3 Å powdered molecular sieves (0.82 g) were added and the reaction heated under reflux for 18 h. On cooling, the mixture was filtered through celite, the filtrate evaporated and the residue dissolved in EtOAc (50 ml). After washing with saturated aqueous Na2CO3 (10 ml) and brine (10 ml), the solvent was removed and the residue purified by flash chromatography (EtOAc then 5% MeOH in EtOAc) to afford the title compound: RT=2.81 min; m/z (ES+)=360.1 [M+H]+.

reactant | 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester | 0.952 mmol, 255 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(=O)O | C12H21NO5
reactant | triethylamine | 0.982 mmol, 138 μl | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 0.982 mmol, 127 μl | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-pyridinecarboximidic acid hydrazide | 0.82 mmol, 100 mg | N1=CC=C(C=C1)C(=N)NN | C6H8N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Pyridin-4-yl-4H-[1,2,4]triazol-3-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC1=NN=C(N1)C1=CC=NC=C1 | C18H25N5O3
